US07470699B2
To a solution of 4,6-dichloro-5-ethyl-pyrimidine (1 g, 5.65 mmol) and 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester (1.05 g, 5.65 mmol) in dry THF under nitrogen at 0° C., potassium tert-butoxide (1M solution in THF, 6.78 mL) was added dropwise. The reaction was stirred at rt for 30 min. The mixture was quenched with water and extracted with EtOAc (3×). The organic layer was washed with water, sat. NH4Cl and brine, followed by drying over sodium sulfate and concentration under vacuo. The resulting oil was purified by HPLC to afford 4-(6-chloro-5-ethyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (0.74 g, 39.8%) as a colorless oil. Exact mass calculated for C15H22ClN3O3 327.13, found 328.2 (MH+).

reactant | 4,6-dichloro-5-ethyl-pyrimidine | 5.65 mmol, 1 g | ClC1=NC=NC(=C1CC)Cl | C6H6Cl2N2
reactant | 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester | 5.65 mmol, 1.05 g | C(C)(C)OC(=O)N1CCC(CC1)O | C9H17NO3
reactant | potassium tert-butoxide | 1M, 6.78 mL | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(6-chloro-5-ethyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.74 g, 39.8% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1CC)Cl | C15H22ClN3O3
